US08232289B2
5-(2-(4-((2′-Chloro-4′,4′-difluoro-4′,5′-dihydrospiro[piperidine-4,7′-thieno[2,3-c]pyran]-1-yl)methyl)-3-methyl-1H-pyrazol-1-yl)pyridin-3-yl)oxazole
To a screw-cap test tube containing 2-(4-((2′-chloro-4′,4′-difluoro-4′,5′-dihydrospiro[piperidine-4,7′-thieno[2,3-c]pyran]-1-yl)methyl)-3-methyl-1H-pyrazol-1-yl)nicotinaldehyde (0.120 g, 0.25 mmol) in methanol (2.5 mL) are added potassium carbonate (0.104 g, 0.75 mmol) and p-toluenesulfonylmethyl isocyanide (0.054 g, 0.28 mmol) under nitrogen. The reaction tube is quickly sealed (caution: build-up of pressure possible; use a safety shield) and is stirred in a preheated oil bath at 65° C. for 3 hr. with the aid of a magnetic stirrer. The mixture is diluted with methanol and purified using a 2 g SCX cartridge. The solvent is evaporated in vacuo. The resulting residue is purified by normal phase Isco chromatography eluting with hexane/ethanol (5-30%) to give 0.093 g of the title compound. MS (m/z): 518 (M+1)

reactant | 2-(4-((2′-chloro-4′,4′-difluoro-4′,5′-dihydrospiro[piperidine-4,7′-thieno[2,3-c]pyran]-1-yl)methyl)-3-methyl-1H-pyrazol-1-yl)nicotinaldehyde | 0.25 mmol, 0.120 g | ClC1=CC2=C(C3(OCC2(F)F)CCN(CC3)CC=3C(=NN(C3)C3=C(C=O)C=CC=N3)C)S1 | C22H21ClF2N4O2S
reactant | potassium carbonate | 0.75 mmol, 0.104 g | C([O-])([O-])=O.[K+].[K+]
reactant | p-toluenesulfonylmethyl isocyanide | 0.28 mmol, 0.054 g | C1(=CC=C(C=C1)S(=O)(=O)C[N+]#[C-])C | C9H9NO2S
solvent | methanol | 2.5 mL | CO | CH4O
product | 5-(2-(4-((2′-Chloro-4′,4′-difluoro-4′,5′-dihydrospiro[piperidine-4,7′-thieno[2,3-c]pyran]-1-yl)methyl)-3-methyl-1H-pyrazol-1-yl)pyridin-3-yl)oxazole | 0.093 g | ClC1=CC2=C(C3(OCC2(F)F)CCN(CC3)CC=3C(=NN(C3)C3=NC=CC=C3C3=CN=CO3)C)S1 | C24H22ClF2N5O2S
